* C:\work\E344\E344\Ass2\LTSpice\Deyzel_21750793_A2.asc
V2 N003 N002 PWL file=PWLinput.csv
V3 Stimulus N003 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N002 0 {dcAmplitude}
V4 N004 0 9
R_Sense 9V N004 0.010
XU1 9V 0 5v LM7805
C1 5v 0 0.33µ
C2 9V 0 0.1µ
R1 d c 100k
R2 c high-pass-out 100k
C3 filter-out c 900n
C4 0 d 450n
XU2 d filter-out 5v 0 filter-out TL081
R3 5v g 100k
R4 g 0 100k
R5 f ofset 10k
R6 e filter-out 10k
R7 amplify f 400k
R8 Vgnd e 400k
XU4 b high-pass-out 5v 0 high-pass-out TL081
R9 b ofset 2000k
R10 high-pass-out a 750530
C5 b a 0.1µ
C6 a Stimulus 0.1µ
R11 5v h 150k
R12 h 0 100k
XU5 g Vgnd 5v 0 Vgnd TL081
XU6 h ref 5v 0 ref TL081
R14 5v N001 150k
R15 N001 0 150k
XU7 N001 ofset 5v 0 ofset TL081
R16 N005 ref 10k
R17 N006 amplify 10k
R13 VoutBeatPulses N006 1000k
XU3 N006 N005 5v 0 VoutBeatPulses LT1018
XU9 e f 5v 0 amplify TLC2272
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "VoutXXXX" to your output signals.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* W. Deyzel.,  21750793\nDC = 1900 mV\nHeart rate pk = 66.6 mV
.incl TLC2272.LIB
.incl TL081.lib
.lib LM78XX_RS.lib
.lib LTC1.lib
.backanno
.end
